US05563163
Reaction of 4-trichloromethylbenzoic acid with thionyl chloride affords 4-trichloromethylbenzoyl chloride, which, on reaction with diethylamine, affords 4-trichloro-methyl-N,N-diethylbenzamide. Following a procedure similar to that described in Preparation 5, reaction of the latter with s-butyl 10 lithium and reaction of the resulting lithium salt with sulfur dioxide followed by sodium hydroxylamine-O-sulfonate affords 4-trichloromethyl-2-aminosulfonyl-N,N-diethylbenzamide, which, on heating in glacial acetic acid, affords 6-trichloromethylsaccharin.

reactant | 4-trichloromethylbenzoic acid | ClC(C1=CC=C(C(=O)O)C=C1)(Cl)Cl | C8H5Cl3O2
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
product | 4-trichloromethylbenzoyl chloride | ClC(C1=CC=C(C(=O)Cl)C=C1)(Cl)Cl | C8H4Cl4O
